US07846956B2
1.30 g of lithium aluminum hydride was suspended in 50 ml of tetrahydrofuran and thereto, under a nitrogen atmosphere, a solution of 8.95 g of ethyl 5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazole-4-carboxylate in 20 ml of tetrahydrofuran was added dropwise over 15 minutes under ice-cooling. The mixture was stirred for 8 hours under ice-cooling. After water was added, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 7.06 g of [5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazol-4-yl]methanol.

reactant | lithium aluminum hydride | 1.30 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazole-4-carboxylate | 8.95 g | N1(C=CC=C1)C1=C(C=NN1C(C)(C)C)C(=O)OCC | C14H19N3O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | [5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazol-4-yl]methanol | 7.06 g | N1(C=CC=C1)C1=C(C=NN1C(C)(C)C)CO | C12H17N3O
